US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-6-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide
N-{[3-Bromo-4-(methyloxy)phenyl]methyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (0.64 g, 0.99 mmol), (3-formylphenyl)boronic acid (0.193 g, 1.29 mmol), potassium carbonate (0.41 g, 2.97 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.058 g, 0.05 mmol) were combined in dioxane (6 mL) and water (2 mL). The mixture was microwaved at 150° C. for 30 min. The reaction mixture was diluted with EtOAc and washed 3× with H2O. The organic phase was dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified using CombiFlash on a 40 g column eluted with 0-10% MeOH/CH2Cl2 to give the title compound as a white solid. LC-MS m/z 675.1 (M+H)+, 1.85 min (ret time); mp 118-121° C.; analytical HPLC shows 100% purity, (ret time 13.204 min).

reactant | N-{[3-Bromo-4-(methyloxy)phenyl]methyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.99 mmol, 0.64 g | BrC=1C=C(C=CC1OC)CN(C(=O)C1=CC(=CC=C1)C(=O)N)CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H37BrN6O4
reactant | (3-formylphenyl)boronic acid | 1.29 mmol, 0.193 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | potassium carbonate | 2.97 mmol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.058 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-6-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)OC)C2=CC(=CC=C2)C=O)CC | C39H42N6O5
